** Generated for: hspiceD
** Generated on: Jan  5 20:02:02 2020
** Design library name: GF12_telescopic_ota_testbench
** Design cell name: telescopic_ota_sr_testbench
** Design view name: schematic
.GLOBAL vss! vdd!
.PARAM _expr_1=2e-09 ugf=1G vicm=0.05 cload=357f ibias_r=40u vcm_r=0.5 
+	vdd_r=1 wireopt=3


.TRAN 1e-12 _EXPR_1 START=0.0

.OP

.TEMP 25.0
.OPTION
+    ARTIST=2
+    INGOLD=2
+    PARHIER=LOCAL
+    PSF=2
.LIB "/project/design-kits/GF_PDKs/12nm/PDK/GF-12LP/12LP/V1.0_1.4/Models/HSPICE/models/12LP_Hspice.lib" TT

** Library name: GF12nm_OTA_schematic
** Cell name: 2019_09_20_telescopic_ota_w_bias1
** View name: schematic
.subckt GF12nm_OTA_schematic_2019_09_20_telescopic_ota_w_bias1_schematic vdd vss vinn vinp vout ibiasn inh_hsup inh_lsup
xn10 net020 ibiasn vss inh_lsup nfet m=1 l=14e-9 nfin=6 nf=2 par=1 par_nf=2 asej=7.128e-15 adej=3.564e-15 psej=1.428e-6 pdej=648e-9 pdevdops=1 pdevlgeos=1 pdevwgeos=1 psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=78e-9 fpitch=48e-9 xpos=-99 ypos=-99 ptwell=0 sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9 lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9 lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0 lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0 nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3
xn9 vbiasn vbiasn net018 inh_lsup nfet m=1 l=14e-9 nfin=25 nf=2 par=1 par_nf=2 asej=29.7e-15 adej=14.85e-15 psej=5.95e-6 pdej=2.7e-6 pdevdops=1 pdevlgeos=1 pdevwgeos=1 psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=78e-9 fpitch=48e-9 xpos=-99 ypos=-99 ptwell=0 sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9 lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9 lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0 lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0 nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3
xn8 net018 vbiasn vss inh_lsup nfet m=1 l=14e-9 nfin=2 nf=1 par=1 par_nf=1 asej=1.188e-15 adej=1.188e-15 psej=238e-9 pdej=238e-9 pdevdops=1 pdevlgeos=1 pdevwgeos=1 psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=78e-9 fpitch=48e-9 xpos=-99 ypos=-99 ptwell=0 sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9 lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=65e-9 lle_pcrxs=65e-9 lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0 lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0 nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3
xn6 vbiasp ibiasn vss inh_lsup nfet m=1 l=14e-9 nfin=12 nf=2 par=1 par_nf=2 asej=14.256e-15 adej=7.128e-15 psej=2.856e-6 pdej=1.296e-6 pdevdops=1 pdevlgeos=1 pdevwgeos=1 psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=78e-9 fpitch=48e-9 xpos=-99 ypos=-99 ptwell=0 sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9 lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9 lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0 lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0 nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3
xn5 vout vbiasn net19 inh_lsup nfet m=1 l=14e-9 nfin=25 nf=2 par=1 par_nf=2 asej=29.7e-15 adej=14.85e-15 psej=5.95e-6 pdej=2.7e-6 pdevdops=1 pdevlgeos=1 pdevwgeos=1 psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=78e-9 fpitch=48e-9 xpos=-99 ypos=-99 ptwell=0 sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9 lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9 lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0 lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0 nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3
xn4 net030 vbiasn net20 inh_lsup nfet m=1 l=14e-9 nfin=25 nf=2 par=1 par_nf=2 asej=29.7e-15 adej=14.85e-15 psej=5.95e-6 pdej=2.7e-6 pdevdops=1 pdevlgeos=1 pdevwgeos=1 psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=78e-9 fpitch=48e-9 xpos=-99 ypos=-99 ptwell=0 sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9 lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9 lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0 lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0 nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3
xn3 ibiasn ibiasn vss inh_lsup nfet m=1 l=14e-9 nfin=5 nf=2 par=1 par_nf=2 asej=5.94e-15 adej=2.97e-15 psej=1.19e-6 pdej=540e-9 pdevdops=1 pdevlgeos=1 pdevwgeos=1 psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=78e-9 fpitch=48e-9 xpos=-99 ypos=-99 ptwell=0 sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9 lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9 lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0 lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0 nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3
xn2 net025 ibiasn vss inh_lsup nfet m=1 l=14e-9 nfin=40 nf=2 par=1 par_nf=2 asej=47.52e-15 adej=23.76e-15 psej=9.52e-6 pdej=4.32e-6 pdevdops=1 pdevlgeos=1 pdevwgeos=1 psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=78e-9 fpitch=48e-9 xpos=-99 ypos=-99 ptwell=0 sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9 lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9 lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0 lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0 nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3
xn1 net19 vinn net025 inh_lsup nfet m=1 l=14e-9 nfin=40 nf=2 par=1 par_nf=2 asej=47.52e-15 adej=23.76e-15 psej=9.52e-6 pdej=4.32e-6 pdevdops=1 pdevlgeos=1 pdevwgeos=1 psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=78e-9 fpitch=48e-9 xpos=-99 ypos=-99 ptwell=0 sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9 lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9 lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0 lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0 nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3
xn0 net20 vinp net025 inh_lsup nfet m=1 l=14e-9 nfin=40 nf=2 par=1 par_nf=2 asej=47.52e-15 adej=23.76e-15 psej=9.52e-6 pdej=4.32e-6 pdevdops=1 pdevlgeos=1 pdevwgeos=1 psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=78e-9 fpitch=48e-9 xpos=-99 ypos=-99 ptwell=0 sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9 lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9 lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0 lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0 nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3
xp9 net020 net020 vdd inh_hsup pfet m=1 l=14e-9 nfin=8 nf=2 par=1 par_nf=2 asej=9.504e-15 adej=4.752e-15 psej=1.904e-6 pdej=864e-9 pdevdops=1 pdevlgeos=1 pdevwgeos=1 psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=78e-9 fpitch=48e-9 xpos=-99 ypos=-99 ptwell=0 sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9 lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9 lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0 lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0 nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3
xp7 net010 net020 vdd inh_hsup pfet m=1 l=14e-9 nfin=15 nf=2 par=1 par_nf=2 asej=17.82e-15 adej=8.91e-15 psej=3.57e-6 pdej=1.62e-6 pdevdops=1 pdevlgeos=1 pdevwgeos=1 psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=78e-9 fpitch=48e-9 xpos=-99 ypos=-99 ptwell=0 sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9 lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9 lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0 lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0 nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3
xp8 vbiasn vbiasp net010 inh_hsup pfet m=1 l=14e-9 nfin=10 nf=2 par=1 par_nf=2 asej=11.88e-15 adej=5.94e-15 psej=2.38e-6 pdej=1.08e-6 pdevdops=1 pdevlgeos=1 pdevwgeos=1 psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=78e-9 fpitch=48e-9 xpos=-99 ypos=-99 ptwell=0 sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9 lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9 lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0 lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0 nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3
xp5 net015 vbiasp vdd inh_hsup pfet m=1 l=14e-9 nfin=2 nf=2 par=1 par_nf=2 asej=2.376e-15 adej=1.188e-15 psej=476e-9 pdej=216e-9 pdevdops=1 pdevlgeos=1 pdevwgeos=1 psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=78e-9 fpitch=48e-9 xpos=-99 ypos=-99 ptwell=0 sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9 lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=65e-9 lle_pcrxs=65e-9 lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0 lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0 nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3
xp4 vbiasp vbiasp net015 inh_hsup pfet m=1 l=14e-9 nfin=5 nf=2 par=1 par_nf=2 asej=5.94e-15 adej=2.97e-15 psej=1.19e-6 pdej=540e-9 pdevdops=1 pdevlgeos=1 pdevwgeos=1 psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=78e-9 fpitch=48e-9 xpos=-99 ypos=-99 ptwell=0 sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9 lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9 lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0 lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0 nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3
xp3 net18 net030 vdd inh_hsup pfet m=1 l=14e-9 nfin=15 nf=2 par=1 par_nf=2 asej=17.82e-15 adej=8.91e-15 psej=3.57e-6 pdej=1.62e-6 pdevdops=1 pdevlgeos=1 pdevwgeos=1 psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=78e-9 fpitch=48e-9 xpos=-99 ypos=-99 ptwell=0 sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9 lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9 lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0 lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0 nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3
xp2 net21 net030 vdd inh_hsup pfet m=1 l=14e-9 nfin=15 nf=2 par=1 par_nf=2 asej=17.82e-15 adej=8.91e-15 psej=3.57e-6 pdej=1.62e-6 pdevdops=1 pdevlgeos=1 pdevwgeos=1 psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=78e-9 fpitch=48e-9 xpos=-99 ypos=-99 ptwell=0 sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9 lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9 lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0 lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0 nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3
xp1 vout vbiasp net18 inh_hsup pfet m=1 l=14e-9 nfin=10 nf=2 par=1 par_nf=2 asej=11.88e-15 adej=5.94e-15 psej=2.38e-6 pdej=1.08e-6 pdevdops=1 pdevlgeos=1 pdevwgeos=1 psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=78e-9 fpitch=48e-9 xpos=-99 ypos=-99 ptwell=0 sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9 lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9 lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0 lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0 nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3
xp0 net030 vbiasp net21 inh_hsup pfet m=1 l=14e-9 nfin=10 nf=2 par=1 par_nf=2 asej=11.88e-15 adej=5.94e-15 psej=2.38e-6 pdej=1.08e-6 pdevdops=1 pdevlgeos=1 pdevwgeos=1 psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=78e-9 fpitch=48e-9 xpos=-99 ypos=-99 ptwell=0 sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9 lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9 lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0 lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0 nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3
.ends GF12nm_OTA_schematic_2019_09_20_telescopic_ota_w_bias1_schematic
** End of subcircuit definition.

** Library name: GF12_telescopic_ota_testbench
** Cell name: telescopic_ota_sr_testbench
** View name: schematic
xi0 net02 0 vout vinp vout net06 vdd! vss! GF12nm_OTA_schematic_2019_09_20_telescopic_ota_w_bias1_schematic
v4 net02 0 DC=vdd_r
v6 net7 0 DC=vcm_r
v0 vinp net7 PWL 0 0 100e-12 0 110e-12 '-vicm/2' '1/ugf' '-vicm/2' '1/ugf+100e-12' 'vicm/2' TD=0
c0 vout 0 cload
i5 net02 net06 DC=ibias_r
.END
